US07700625B2
A mixture of 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid (8.1 g, 21.65 mmol), 4-hydroxyisoindoline hydrobromide (4.91 g, 22.73 mmol), N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.0 g, 25.98 mmol), 1-hydroxybenzotriazole (3.5 g, 25.98 mmol) and triethylamine (6 ml, 43.3 mmol) in N,N-dimethylformamide (50 ml) was stirred at room temperature for 16 hours. The solvent was removed in vacuo and the residue was treated with a saturated aqueous solution of sodium hydrogen carbonate (200 ml). The mixture was filtered, the solid material was washed copiously with water, sucked dry under reduced pressure and dried in a vacuum oven at 50° C. overnight to afford (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-(4-hydroxy-1,3-dihydro-isoindol-2-yl)-methanone (10.25 g, 96%) as a pale tan solid. 1H NMR (DMSO-d6) (mixture of amide rotamers) 9.68 and 9.60 (1H, 2×br s), 7.45-7.25 (10H, m), 7.20-7.00 (3H, m), 6.82 and 6.72 (1H, 2×d), 6.68 (1H, m), 5.23 and 5.22 (2H, 2×s), 5.18 (2H, s), 5.11 (1H, s), 5.09 (1H, s), 4.77 and 6.67 (2H, 2×s), 4.53 and 4.44 (2H, 2×s), 2.04 (3H, s). MS: [M+H]+ 492.

reactant | 2,4-bis-benzyloxy-5-isopropenyl-benzoic acid | 21.65 mmol, 8.1 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C | C24H22O4
reactant | 4-hydroxyisoindoline hydrobromide | 22.73 mmol, 4.91 g | Br.OC1=C2CNCC2=CC=C1
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 25.98 mmol, 5.0 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 25.98 mmol, 3.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 43.3 mmol, 6 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (2,4-bis-benzyloxy-5-isopropenyl-phenyl)-(4-hydroxy-1,3-dihydro-isoindol-2-yl)-methanone | 10.25 g, 96% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(=C)C)C(=O)N1CC2=CC=CC(=C2C1)O | C32H29NO4
